US04954513
(d) 3-[(2-carbomethoxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid
A solution of t-butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate (4.0 gm, 9.7 mmole) in methylene chloride (40 ml) was stirred under an inert atmosphere at -10° C. To this cold solution was added methyl 3-mercaptopropionate (6.2 ml, 56 mmole) in one portion followed by dropwise addition of trifluoroacetic acid (80 ml). The reaction mixture was then stirred for 5 hours at 0° C. Solvent and excess trifluoroacetic acid were removed on a rotary evaporator. The residue was redissolved in methylene chloride and washed twice with water and once with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and evaporated. Chromatography on silica gel eluting with hexane-ethyl acetate formic acid (85/15/0.5) gave the title compound. Anal.: Calcd. for C27H36O4S: C, 71.17; H, 7.74. Found: C, 70.46; H, 7.72. 250 MHz NMR (CDCl3) δ 1.28-1.68 (12H,m) 2.48 (2H,t) 2.56-2.72 (6H,m) 2.93 (2H,d) 3.66 (3H,s) 4.60 (1H,t) 7.18-7.39 (9H,m).

reactant | t-butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate | 9.7 mmole, 4.0 gm | OC(CC(=O)OC(C)(C)C)C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1 | C27H38O3
reactant | methyl 3-mercaptopropionate | 56 mmole, 6.2 ml | SCCC(=O)OC | C4H8O2S
reactant | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-[(2-carbomethoxyethyl)thio]-3-[2-(8-phenyloctyl)phenyl]propanoic acid | C(=O)(OC)CCSC(CC(=O)O)C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1 | C27H36O4S
